US04327026
110 ml of a 2 N solution of methyl lithium in ether are added dropwise to a solution, stirred at -70° under argon, of 12.81 g (43.68 mmol) of 5-(o-fluorophenyl)-2,3-dihydro-3-methyl-2-oxo-1H-1,4-benzodiazepine-7-carbonitrile in 500 ml of tetrahydrofuran. After 21 hours at -70°, 440 ml of 2 N hydrochloric acid are added thereto at -70° and, after warming to room temperature, the mixture is neutralised with 135 ml of 3 N sodium hydroxide. After separating the aqueous phase, the organic phase is evaporated at 40° in vacuo, the residue is taken up in methylene chloride and the organic phase is washed with the aqueous phase separated above. The methylene chloride solution is washed with water, dried and evaporated. The residue yields, from methylene chloride/cyclohexane, 7-acetyl-5-(o-fluorophenyl)-1,3-dihydro-3-methyl-2H-1,4-benzodiazepin-2-one of melting point 203°.

reactant | methyl lithium | C[Li]
reactant | 5-(o-fluorophenyl)-2,3-dihydro-3-methyl-2-oxo-1H-1,4-benzodiazepine-7-carbonitrile | 43.68 mmol, 12.81 g | FC1=C(C=CC=C1)C1=NC(C(NC2=C1C=C(C=C2)C#N)=O)C | C17H12FN3O
reactant | hydrochloric acid | 2 N, 440 ml | Cl | ClH
reactant | sodium hydroxide | 3 N, 135 ml | [OH-].[Na+]
reactant | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 7-acetyl-5-(o-fluorophenyl)-1,3-dihydro-3-methyl-2H-1,4-benzodiazepin-2-one | C(C)(=O)C=1C=CC2=C(C(=NC(C(N2)=O)C)C2=C(C=CC=C2)F)C1 | C18H15FN2O2
